US06544985B2
{4-Chloro-5-(isobutyl-amino)-2-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-4-chloro-5-(isobutyl-amino)-phenyl]-carbamic acid tert-butyl ester (Example J34) (313 mg, 1.0 mmol) and 3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid tert-butyl ester (Example K23) (287 mg, 1.0 mmol) according to the general procedure M. Obtained as a pale brown foam (220 mg, 42%).

reactant | [2-amino-4-chloro-5-(isobutyl-amino)-phenyl]-carbamic acid tert-butyl ester | 1.0 mmol, 313 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)NCC(C)C)Cl)N)=O | C15H24ClN3O2
reactant | 3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid tert-butyl ester | 1.0 mmol, 287 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O | C15H17N3O3
product | {4-Chloro-5-(isobutyl-amino)-2-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)NCC(C)C)Cl)NC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O)=O | C26H31ClN6O4
